### PR TITLE
[Merged by Bors] - feat: lemmas for the analytic part of the proof of the Gelfond–Schneider theorem (Part 4/5)

### PR DESCRIPTION
**Pull request by mkaratarakis**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean
Comment (SnirBroshi) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean:1]: Please add a `.lean` extension to the filename, and `import Mathlib.NumberTheory.Transcendental.AnalyticPart` to `Mathlib.lean` (or run `lake exe mk_all`)

File: Mathlib/NumberTheory/Transcendental/AnalyticPart [hunk 1]
```diff
@@ -0,0 +1,85 @@
+/-
+Copyright (c) 2025 Michail Karatarakis. All rights reserved.
```
Comment (SnirBroshi) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart]:
```suggestion
Copyright (c) 2026 Michail Karatarakis. All rights reserved.
```

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 2]
```diff
@@ -0,0 +1,86 @@
...
+    · simpa using lt_min hr₁ hr₂
+  · refine ⟨_, lt_min hr₁ hr₂, fun x hx ↦ ?_⟩
+    rw [← derivWithin_of_mem_nhds <| Metric.isOpen_ball.mem_nhds hx]
+    trans derivWithin 0 (Metric.ball z₀ (min r₁ r₂)) x
+    · refine Filter.EventuallyEq.derivWithin_eq_of_nhds <| Filter.eventually_iff_exists_mem.mpr ?_
+      refine ⟨_, Metric.isOpen_ball.mem_nhds hx, fun z hz ↦ hball z ?_⟩
+      exact Metric.ball_subset_ball (min_le_right r₁ r₂) hz
+    simp
+
+lemma analyticOrderAt_eq_succ_iff_deriv_order_eq_pred {z₀ : ℂ} {f : ℂ → ℂ} (hf : AnalyticAt ℂ f z₀)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: The statement is not an "iff", and it does not involve "pred", so the name should be changed.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+    {n : ℕ} (hzero : f z₀ = 0) (horder : analyticOrderAt (deriv f) z₀ = n) :
+    analyticOrderAt f z₀ = n + 1 := by
+  cases Hn' : analyticOrderAt f z₀ with
+  | top => grind [ENat.coe_ne_top, analyticOrderAt_deriv_eq_top_iff_of_eq_zero]
+  | coe n' =>
+    cases n' with
+    | zero => exact hf.analyticOrderAt_eq_zero.mp Hn' hzero |>.elim
+    | succ n'' =>
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: You can probably combine these if you use `match` instead of `cases`.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+      have := horder ▸ analyticOrderAt_deriv_of_pos hf Hn'
+      norm_cast at this ⊢
+      have hchar : ringChar ℂ = 0 := by aesop
+      aesop
+
+lemma analyticOrderAt_eq_nat_iff_iteratedDeriv_eq_zero {z₀ : ℂ} (n : ℕ) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: The statement is the other way round, so please change the name accordingly.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+  ∀ (f : ℂ → ℂ) (_ : AnalyticAt ℂ f z₀),
+    ((∀ k < n, deriv^[k] f z₀ = 0) ∧ deriv^[n] f z₀ ≠ 0) ↔ analyticOrderAt f z₀ = n := by
+  induction n with
+  | zero =>
+    simp only [ne_eq, not_lt_zero', IsEmpty.forall_iff, implies_true, true_and, CharP.cast_eq_zero]
+    exact fun f hf ↦ (AnalyticAt.analyticOrderAt_eq_zero hf).symm
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: Can you turn this into `simpa using ...`?

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 6]
```diff
@@ -0,0 +1,86 @@
...
+  | succ n IH =>
+    refine fun f hf ↦ ⟨fun ⟨hz, hnz⟩ ↦ ?_, ?_⟩
+    · have IH' := IH (deriv f) (AnalyticAt.deriv hf)
+      · exact analyticOrderAt_eq_succ_iff_deriv_order_eq_pred hf (hz 0 (by grind))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: There should be only one goal at this point, so the focus dot is unnecessary.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 7]
```diff
@@ -0,0 +1,86 @@
...
+          (by simpa using ((IH').1 ⟨fun k hk => hz (k + 1) (Nat.succ_lt_succ hk), hnz⟩))
+    · refine fun ho ↦ ⟨fun k hk ↦ (analyticOrderAt_ne_zero.mp ?_).2, ?_⟩
+      · grind only [(analyticOrderAt_iterated_deriv (f:=f) hf (n := (n + 1))
+          ho.symm (by grind) hk.le), Nat.cast_ne_zero]
+      · have := analyticOrderAt_iterated_deriv (f := f) hf (k := n + 1) (n := n + 1)
+          ho.symm (by grind) (by omega)
+        grind only [AnalyticAt.analyticOrderAt_eq_zero (hf := iterated_deriv hf (n + 1))]
+
+lemma analyticOrderAt_eq_nat_imp_iteratedDeriv_eq_zero {f : ℂ → ℂ} {z₀ : ℂ} (hf : AnalyticAt ℂ f z₀)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: The hypothesis `analyticOrderAt f z₀ = n` should go left of the colon (and `n` can be implicit, as it can be deduced from it). The name should be of the form `iteratedDeriv_eq_zero_of_analyticOrder_eq_nat`; compare the [naming convention](https://leanprover-community.github.io/contribute/naming.html).

But as this is exactly one direction of `analyticOrderAt_eq_nat_iff_iteratedDeriv_eq_zero`, it is not really necessary to have this separately.

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 8]
```diff
@@ -0,0 +1,84 @@
...
+module
+
+public import Mathlib.Analysis.Analytic.Order
+public import Mathlib.Analysis.Complex.CauchyIntegral
+public import Mathlib.Analysis.Normed.Module.Connected
+
+/-!
+Auxiliary lemmata covering the analytic part of the proof of the Gelfond–Schneider theorem.
+Move to appropriate files in Analysis/Complex or Analysis/Analytic and change docstring accordingly.
+-/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: Please move the lemmas to `Mathlib.Analysis.Analytic.Order` (where the other results on `analyticOrderAt` also reside) and remove this file (don't forget to also remove the import from `Mathlib.lean`).

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 9]
```diff
@@ -0,0 +1,84 @@
...
+    analyticOrderAt f z₀ = n + 1 := by
+  match Hn' : analyticOrderAt f z₀ with
+  | none =>
+    have Hn_top : analyticOrderAt f z₀ = ⊤ := Hn'
+    have h_deriv_top := (analyticOrderAt_deriv_eq_top_iff_of_eq_zero z₀ f hf hzero).mpr Hn_top
+    grind [ENat.coe_ne_top]
+  | some 0 =>
+    have Hn_zero : analyticOrderAt f z₀ = 0 := Hn'
+    exact hf.analyticOrderAt_eq_zero.mp Hn_zero hzero |>.elim
+  | some (n'' + 1) =>
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: Why `n''` and not simply `n` (or `n'`, but I don't think there is another `n` here that would be relevant)?

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 10]
```diff
@@ -0,0 +1,84 @@
...
+    have Hn_coe : analyticOrderAt f z₀ = ↑(n'' + 1) := Hn'
+    have := horder ▸ analyticOrderAt_deriv_of_pos hf Hn_coe
+    norm_cast at this ⊢
+    have hchar : ringChar ℂ = 0 := by aesop
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]:
```suggestion
    have hchar : ringChar ℂ = 0 := ringChar.eq ℂ 0
```

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 11]
```diff
@@ -0,0 +1,84 @@
...
+    aesop
+
+lemma analyticOrderAt_eq_nat_iff_iteratedDeriv_eq_zero {f : ℂ → ℂ} {z₀ : ℂ} {n : ℕ}
+    (hf : AnalyticAt ℂ f z₀) :
+    analyticOrderAt f z₀ = n ↔ (∀ k < n, deriv^[k] f z₀ = 0) ∧ deriv^[n] f z₀ ≠ 0 := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: Why not use `iteratedDeriv`? Thre is more API (loogle says 169 decls compared to 44) than for `deriv^[n]`.

**Comment by kebekus** [comment]
@MichaelStollBayreuth Will review as requested, but might not be able to do that before the weekend (=25/26Apr). Sorry for being slow.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 12]
```diff
@@ -0,0 +1,84 @@
...
+
+public import Mathlib.Analysis.Analytic.Order
+public import Mathlib.Analysis.Complex.CauchyIntegral
+public import Mathlib.Analysis.Normed.Module.Connected
+
+/-!
+Auxiliary lemmata covering the analytic part of the proof of the Gelfond–Schneider theorem.
+Move to appropriate files in Analysis/Complex or Analysis/Analytic and change docstring accordingly.
+-/
+
```
Comment (kebekus) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: I agree with Michael that the material here has its natural place in `Mathlib.Analysis.Analytic.Order`.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 13]
```diff
@@ -0,0 +1,84 @@
...
+@[expose] public section
+
+open AnalyticOnNhd AnalyticAt Set
+
+lemma analyticOrderAt_deriv_eq_top_iff_of_eq_zero (z₀ : ℂ) (f : ℂ → ℂ) (hf : AnalyticAt ℂ f z₀)
```
Comment (kebekus) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: I would appreciate it if you could add short docstrings to your theorems and lemmas, in line with the docstrings that exist for most other statements in `Mathlib.Analysis.Analytic.Order`.

Comment (kebekus) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: I would recommend making the variables `z₀` and `f` implicit, as they can be deduced from the assumptions `hf` and `hzero`.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 14]
```diff
@@ -0,0 +1,84 @@
...
+    (hzero : f z₀ = 0) : analyticOrderAt (deriv f) z₀ = ⊤ ↔ analyticOrderAt f z₀ = ⊤ := by
```
Comment (kebekus) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: I believe the statement holds more generally, for morphisms `f : 𝕜 → E` from nontrivially normed fields to vector spaces. This is also the order of generality where `analyticOrderAt` is defined. Please upgrade the statements, here and elsewhere in this file.

File: Mathlib/NumberTheory/Transcendental/AnalyticPart.lean [hunk 15]
```diff
@@ -0,0 +1,84 @@
...
+      · grind only [(analyticOrderAt_iterated_deriv (f:=f) hf (n := (n + 1))
+          ho.symm (by grind) hk.le), Nat.cast_ne_zero]
+      · have := analyticOrderAt_iterated_deriv (f := f) hf (k := n + 1) (n := n + 1)
+          ho.symm (by grind) (by omega)
+        grind only [AnalyticAt.analyticOrderAt_eq_zero (hf := iterated_deriv hf (n + 1))]
+    · have IH' := IH (AnalyticAt.deriv hf)
+      exact analyticOrderAt_deriv_order_eq_succ hf (hz 0 (by grind))
+        (by simpa using (IH'.2 ⟨fun k hk => hz (k + 1) (Nat.succ_lt_succ hk), hnz⟩))
+
+lemma le_analyticOrderAt_iff_iteratedDeriv_eq_zero {f : ℂ → ℂ} {z₀ : ℂ}
```
Comment (kebekus) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: I am unsure that assumption `ho` is required. If `analyticOrderAt f z₀ = ⊤`, then the conclusion `n ≤ analyticOrderAt f z₀` holds no matter what. Am I making a logic mistake here?

Comment (kebekus) [inline Mathlib/NumberTheory/Transcendental/AnalyticPart.lean]: I would find it cleaner (and probably easier to use) if the assumption `∀ k < n, (deriv^[k] f) z₀ = 0` was stated as a separate hypothesis, instead of formulating a lemma whose conclusion is an implication.

**Review by kebekus — COMMENTED** [review]
Dear all, I believe that the material is suitable for mathlib and should be added in principle. I believe that the restriction to maps from/to the complex numbers is artificial and that the same proofs will give more general statements.

**Comment by kebekus** [comment]
@mkaratarakis @MichaelStollBayreuth Sorry for being so slow.

**Comment by MichaelStollBayreuth** [comment]
> Sorry for being so slow.

No problem; we're all busy (and I know myself very well that teaching at German universities just started two week s ago...).

**Comment by mkaratarakis** [comment]
-awaiting-author

**Comment by mkaratarakis** [comment]
@MichaelStollBayreuth @kebekus thank you for the reviews!

**Comment by MichaelStollBayreuth** [comment]
@kebekus Are you OK with the import increase (and the changes made)? I think it should be OK, but you are the expert on this.

**Comment by kebekus** [comment]
Will look at this and report back by early next week.

**Comment by MichaelStollBayreuth** [comment]
> Will look at this and report back by early next week.

Can I ping you on this? @kebekus

**Comment by kebekus** [comment]
@MichaelStollBayreuth Pong. Will work on this today and tomorrow.

**Comment by kebekus** [comment]
Dear @XavierXarles @MichaelStollBayreuth, sorry for my late answer. I have a good excuse for being slow, but I am unsure you wish to hear it…

The proposed statements are worth having, but I'm skeptical about several aspects. I understand that @mkaratarakis might find my skepticism disappointing, and I hope that the comments below do not come across as acidic or discouraging! And watch out: While I tend to have (and voice) strong opinions, I have been wrong at times. Just ask my wife, who proves me wrong about once per hour.

In essence:

a) I believe that some of the new statements have too restrictive hypotheses and hold much more generally, probably even with simpler proofs than the ones given in this PR. The hypothesis should be weakened.

b) As a consequence of (a), I believe the additional imports are not necessary.

c) I believe that parts of the PR introduce statements that already exist in a similar form.

In detail: The proposed PR introduces new statements, comparing the order of an analytic function to the order of its derivative. The new statements assume that the underlying field `𝕜` is `RCLike`, that is, isomorphic to the real or complex numbers. To formulate and prove these statements via mean value properties, the author adds material on `RCLike` fields to the imports.

ad a) I am under the impression that the restrictive assumptions `RCLike` are not natural, and not necessary to obtain the relevant results. I believe that `RCLike` can be replaced by the assumption that `𝕜` is a field of characteristic zero. To illustrate my point, here is a quick-and-dirty makeshift proof of the proposed statement `analyticOrderAt_deriv_eq_top_iff_of_eq_zero` under less restrictive assumptions.

```
import Mathlib.Analysis.Analytic.Order

variable {𝕜 E : Type*} [NontriviallyNormedField 𝕜] [CharZero 𝕜]
  [NormedAddCommGroup E] [NormedSpace 𝕜 E] [CompleteSpace E]

lemma analyticOrderAt_deriv_eq_top_iff_of_eq_zero {z₀ : 𝕜} {f : 𝕜 → E} (hf : AnalyticAt 𝕜 f z₀)
    (hzero : f z₀ = 0) : analyticOrderAt (deriv f) z₀ = ⊤ ↔ analyticOrderAt f z₀ = ⊤ := by
  constructor
  · intro h
    by_contra h'
    lift (analyticOrderAt f z₀) to ℕ using h' with n h₁n
    obtain ⟨g, h₁g, h₂g, h₃g⟩ := hf.analyticOrderAt_eq_natCast.1 h₁n.symm
    have h₂n : 0 < n := by
      by_contra h₂n
      simp at h₂n
      subst h₂n
      simp at h₃g
      have : f z₀ = g z₀ := by
        apply Filter.EventuallyEq.eq_of_nhds h₃g
      aesop
    have : ∃ m : ℕ, n = m +1 := by
      rw [Nat.pos_iff_ne_zero] at h₂n
      exact Nat.exists_eq_succ_of_ne_zero h₂n
    obtain ⟨m, hm⟩ := this
    rw [hm] at h₁n
    have := analyticOrderAt_deriv_of_pos hf h₁n.symm
    aesop
  · intro h
    rw [analyticOrderAt_eq_top] at *
    rw [← eventually_eventually_nhds] at h
    filter_upwards [h] with z hz
    simp [(Filter.EventuallyEq.deriv hz).eq_of_nhds]
``` 

ad b) I strongly believe in the benefits of keeping separate things separate. If it turns out that there are statements that seriously require the `RCLike` assumption, I would argue that they should be best placed in a separate file.

ad c) As an example to illustrate my concerns, look at the proposed statement `le_analyticOrderAt_of_iteratedDeriv_eq_zero`, which overlaps with the statement `natCast_le_analyticOrderAt_iff_iteratedDeriv_eq_zero` that already exists in the library.

**Comment by mkaratarakis** [comment]
- awaiting-author

File: Mathlib/Analysis/Analytic/Order.lean [hunk 16]
```diff
@@ -6,10 +6,12 @@ Authors: Vincent Beffara, Stefan Kebekus
 module
 
 public import Mathlib.Analysis.Analytic.IsolatedZeros
-public import Mathlib.Analysis.Calculus.Deriv.Mul
 public import Mathlib.Analysis.Calculus.Deriv.Pow
 public import Mathlib.Analysis.Calculus.InverseFunctionTheorem.Analytic
 public import Mathlib.Analysis.Calculus.IteratedDeriv.Lemmas
+public import Mathlib.Analysis.Calculus.MeanValue
+public import Mathlib.Analysis.InnerProductSpace.Basic
+public import Mathlib.Analysis.Normed.Module.Connected
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
```
These are no longer necessary (compare @kebekus's remarks).

File: Mathlib/Analysis/Analytic/Order.lean [hunk 17]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
       · contrapose hz
         exact (pow_eq_zero_iff'.mp hz).1 ▸ mem_of_mem_nhds hU0
 
+variable [CharZero 𝕜] [CompleteSpace E]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]: I think a better way of setting these lemmas up is as follows.
```lean
variable [CharZero 𝕜] [CompleteSpace E] {z₀ : 𝕜} {f : 𝕜 → E}
  (hf : AnalyticAt 𝕜 f z₀) (hzero : f z₀ = 0)

include hf hzero

/-- If an analytic function `f` vanishes at `z₀`, then the analytic order of its derivative
at `z₀` is at least `n` if and only if the analytic order of `f` at `z₀` is at least `n + 1`. -/
lemma analyticOrderAt_deriv_ge_iff {n : ℕ} :
    n ≤ analyticOrderAt (deriv f) z₀ ↔ n + 1 ≤ analyticOrderAt f z₀ := by
  rw [natCast_le_analyticOrderAt_iff_iteratedDeriv_eq_zero hf.deriv,
    ← Nat.cast_add_one, natCast_le_analyticOrderAt_iff_iteratedDeriv_eq_zero hf]
  simp only [← iteratedDeriv_succ']
  refine ⟨fun h k hk ↦ ?_, fun h k hk ↦ h (k + 1) <| by lia⟩
  cases k with
  | zero => simpa
  | succ k => exact h k <| by lia

/-- The derivative of an analytic function `f` has infinite analytic order at a zero `z₀` if and
only if `f` has infinite analytic order at `z₀`. -/
lemma analyticOrderAt_deriv_eq_top_iff_of_eq_zero :
    analyticOrderAt (deriv f) z₀ = ⊤ ↔ analyticOrderAt f z₀ = ⊤ := by
  simp_rw [ENat.eq_top_iff_forall_ge, analyticOrderAt_deriv_ge_iff hf hzero]
  exact ⟨fun h m ↦ le_self_add.trans (h m), fun h m ↦ h (m + 1)⟩

/-- If an analytic function `f` vanishes at `z₀`, then its derivative has finite analytic order `n`
at `z₀` if anf only if `f` has analytic order `n + 1` at `z₀`. -/
lemma analyticOrderAt_deriv_eq_iff {n : ℕ} :
    analyticOrderAt f z₀ = n + 1 ↔ analyticOrderAt (deriv f) z₀ = n := by
  have H {m : ℕ} {n : ℕ∞} : n = m ↔ m ≤ n ∧ ¬ m + 1 ≤ n := by
    cases n with | top => simp | coe _ => norm_cast; lia
  rw [← Nat.cast_add_one n, H, H, analyticOrderAt_deriv_ge_iff hf hzero, ← Nat.cast_add_one n,
    analyticOrderAt_deriv_ge_iff hf hzero]
```
`analyticOrderAt_deriv_order_eq_succ` is simply the `.mpr` direction of the last one.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 18]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+  | some 0 =>
+    have Hn_zero : analyticOrderAt f z₀ = 0 := Hn'
+    exact hf.analyticOrderAt_eq_zero.mp Hn_zero hzero |>.elim
+  | some (n + 1) =>
+    have Hn_coe : analyticOrderAt f z₀ = ↑(n + 1) := Hn'
+    have := horder ▸ analyticOrderAt_deriv_of_pos hf Hn_coe
+    norm_cast at this ⊢
+    have hchar : ringChar 𝕜 = 0 := ringChar.eq 𝕜 0
+    aesop
+
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion

omit hzero in
```
if you follow the previous suggestion.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 19]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+/-- An analytic function `f` has finite analytic order `n` at `z₀` if and only if its first
+`n` iterated derivatives (including `f` itself) vanish at `z₀` and the `n`-th iterated derivative is
+non-zero. -/
+lemma analyticOrderAt_eq_nat_iff_iteratedDeriv_eq_zero
+    {f : 𝕜 → E} {z₀ : 𝕜} {n : ℕ} (hf : AnalyticAt 𝕜 f z₀) :
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
lemma analyticOrderAt_eq_nat_iff_iteratedDeriv_eq_zero {n : ℕ} :
```
again, if you follow the `variable` line suggestion.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 20]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+    analyticOrderAt f z₀ = n ↔ (∀ k < n, iteratedDeriv k f z₀ = 0) ∧ iteratedDeriv n f z₀ ≠ 0 := by
+  induction n generalizing f with
+  | zero => simp [iteratedDeriv_zero, AnalyticAt.analyticOrderAt_eq_zero hf]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
  | zero => simp [hf.analyticOrderAt_eq_zero]
```
* `iteratedDeriv_zero` is already a `simp` lemma
* dot notation (`hf` has type `AnalyticAt ..`)

File: Mathlib/Analysis/Analytic/Order.lean [hunk 21]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+  | succ n IH =>
+    have IH_deriv := IH hf.deriv
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
    specialize IH hf.deriv
    simp_rw [← iteratedDeriv_succ'] at IH
```
* you don't need the "old" `IH` anymore, so you can replace it by the specialization
* rewriting at `IH` immediately simplifies the following part of the proof (`rw` does not work here, as the expression to be rewritten depends on a bound variable)

File: Mathlib/Analysis/Analytic/Order.lean [hunk 22]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+    refine ⟨fun ho ↦ ?_, fun ⟨hz, hnz⟩ ↦ ?_⟩
+    · have ⟨h_zero, h_nz⟩ := IH_deriv.mp (analyticOrderAt_deriv_of_pos hf ho)
+      refine ⟨fun k hk ↦ ?_, by simpa [iteratedDeriv_succ'] using h_nz⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
    · have ⟨h_zero, h_nz⟩ := IH.mp (analyticOrderAt_deriv_of_pos hf ho)
      refine ⟨fun k hk ↦ ?_, h_nz⟩
```

File: Mathlib/Analysis/Analytic/Order.lean [hunk 23]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+      match k with
+      | 0 => simpa [iteratedDeriv_zero] using apply_eq_zero_of_analyticOrderAt_ne_zero
+              (by intro c; rw [ho] at c; norm_cast at c)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
      | 0 => rw [iteratedDeriv_zero, ← hf.analyticOrderAt_ne_zero, ho, Nat.cast_add_one] 
             exact Nat.cast_add_one_ne_zero _
```
is less convoluted.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 24]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+      | k + 1 => simpa [iteratedDeriv_succ'] using h_zero k (by omega)
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
      | k + 1 => exact h_zero k (by lia)
```
* Note that `omega` is being phased out; `lia` ("linear integer arithmetic", a module of `grind`) replaces it.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 25]
```diff
@@ -418,6 +420,66 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+    · exact analyticOrderAt_deriv_order_eq_succ hf
+        (by simpa [iteratedDeriv_zero] using hz 0 (by omega)) <|
+        IH_deriv.mpr ⟨fun j _ ↦ by simpa [iteratedDeriv_succ'] using hz (j + 1) (by omega),
+          by simpa [iteratedDeriv_succ'] using hnz⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]:
```suggestion
    · exact (analyticOrderAt_deriv_eq_iff hf <| by simpa using hz 0 (by lia)).mpr <|
        IH.mpr ⟨fun j _ ↦ hz (j + 1) (by lia), hnz⟩
```

**Comment by mkaratarakis** [comment]
-awaiting-author

File: Mathlib/Analysis/Analytic/Order.lean [hunk 26]
```diff
@@ -418,6 +417,67 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+/-- If an analytic function `f` vanishes at `z₀`, then its derivative has finite analytic order `n`
+at `z₀` if and only if `f` has analytic order `n + 1` at `z₀`. -/
+lemma analyticOrderAt_deriv_eq_iff {n : ℕ} :
+    analyticOrderAt f z₀ = n + 1 ↔ analyticOrderAt (deriv f) z₀ = n := by
+  have H {m : ℕ} {n : ℕ∞} : n = m ↔ m ≤ n ∧ ¬ m + 1 ≤ n := by
+    cases n with | top => simp | coe _ => norm_cast; lia
+  rw [← Nat.cast_add_one n, H, H, analyticOrderAt_deriv_ge_iff hf hzero, ← Nat.cast_add_one n,
+    analyticOrderAt_deriv_ge_iff hf hzero]
+
+omit hzero in include hf hzero in
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]: This line does not make sense.
* `hf` and `hzero` are included anyway per line 423.
* `omit hzero in include ... hzero in` is confusing and partly redundant. You just need to `omit hzero in` here (but see below).

File: Mathlib/Analysis/Analytic/Order.lean [hunk 27]
```diff
@@ -418,6 +417,67 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+/-- If an analytic function `f` vanishes at `z₀` and its derivative has finite analytic order `n` at
+`z₀`, then `f` has analytic order `n + 1` at `z₀`. -/
+lemma analyticOrderAt_deriv_order_eq_succ {n : ℕ}
+    (horder : analyticOrderAt (deriv f) z₀ = n) : analyticOrderAt f z₀ = n + 1 :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]: Maybe that was not sufficiently clear from the last review: I suggest to remove this lemma altogether; it can be replaced by its short proof at the use cases.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 28]
```diff
@@ -418,6 +417,67 @@ lemma AnalyticAt.exists_eq_sum_add_pow_mul [CharZero 𝕜] [CompleteSpace E]
...
+  (analyticOrderAt_deriv_eq_iff hf hzero (n := n)).mpr horder
+
+omit hzero in include hf in
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/Analytic/Order.lean]: See above. `hf` is included already.

**Comment by mkaratarakis** [comment]
- awaiting-author

**Comment by MichaelStollBayreuth** [comment]
LGTM now.

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
